Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS  
==============================
___ 12:15PM BLOOD WBC-9.1 RBC-2.62* Hgb-9.4* Hct-28.1* 
MCV-107* MCH-35.9* MCHC-33.5 RDW-20.0* RDWSD-77.8* Plt Ct-46*
___ 12:15PM BLOOD Neuts-81.9* Lymphs-6.6* Monos-6.6 
Eos-0.0* Baso-0.1 NRBC-0.4* Im ___ AbsNeut-7.46* 
AbsLymp-0.60* AbsMono-0.60 AbsEos-0.00* AbsBaso-0.01
___ 12:15PM BLOOD  WBC-9.1 Lymph-7* Abs ___ CD3%-79 Abs 
CD3-506* CD4%-16 Abs CD4-105* CD8%-63 Abs CD8-401 CD4/CD8-0.26*
___ 11:40AM BLOOD UreaN-29* Creat-0.8 Na-138 K-3.4* Cl-105 
HCO3-20* AnGap-13
___ 11:40AM BLOOD ALT-29 AST-16 LD(LDH)-313* AlkPhos-73 
TotBili-0.6
___ 11:40AM BLOOD Calcium-8.4 Phos-3.0 Mg-1.5*

DISCHARGE LABS
==============================
___ 09:45AM BLOOD WBC-3.5* RBC-2.50* Hgb-8.5* Hct-26.3* 
MCV-105* MCH-34.0* MCHC-32.3 RDW-21.9* RDWSD-82.0* Plt Ct-34*
___ 09:45AM BLOOD Neuts-45 Bands-13* ___ Monos-10 
Eos-0* Baso-0 Atyps-3* Metas-3* Myelos-3* NRBC-6.2* AbsNeut-2.03 
AbsLymp-0.91* AbsMono-0.35 AbsEos-0.00* AbsBaso-0.00*
___ 09:45AM BLOOD Glucose-91 UreaN-23* Creat-0.7 Na-143 
K-3.5 Cl-106 HCO3-24 AnGap-13
___ 09:45AM BLOOD ALT-39 AST-28 AlkPhos-79 TotBili-0.4
___ 09:45AM BLOOD Calcium-7.5* Phos-3.0 Mg-1.3*
___ 09:45AM BLOOD tacroFK-5.5
___ 06:10AM BLOOD CMV VL-NOT DETECT
___ 06:25AM BLOOD CMV VL-NOT DETECT

PERTINENT STUDIES
==============================
___ CT CHEST W/ CONTRAST
1. Interval development of bilateral peribronchial nodules, 
concerning for 
infection. 
2. Moderate diffuse bronchial wall thickening and irregularity 
with mucous 
plugging, consistent with chronic airway disease. 
3. Mild centrilobular emphysema. 

___ CT ABD/PELVIS WITH CONTRAST
1. Bladder wall edema with mucosal hyperenhancement.  
Correlation with UA for cystitis is recommended. 
2. Circumferential mural thickening involving the entire large 
bowel, as well as the distal ileum, is most suggestive of acute 
graft-versus-host disease and infectious enterocolitis, as on 
prior. 

___ RESPIRATORY VIRAL PANEL, PCR
Rhinovirus positive by NP swab, others negative

___ BILATERAL LOWER EXTREMITY VEINS
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 

___ TISSUE (BONE MARROW BIOPSY), IMMUNOPHENOTYPING
HYPOCELLULAR BONE MARROW WITH TRILINEAGE HEMATOPOIESIS.
NO MORPHOLOGIC EVIDENCE OF INVOLVEMENT BY THE PATIENT'S KNOWN 
ACUTE
MYELOID LEUKEMIA. SEE NOTE

INTERPRETATION:
Diagnostic immunophenotypic features of involvement by acute 
myeloid leukemia are not seen in this specimen. Correlation with 
clinical, morphologic (see separate pathology report 
___, cytogenetic studies (see separate cytogenetics 
report ___), and other ancillary findings is recommended. 
Flow cytometry immunophenotyping may not detect all abnormal 
populations due to topography, sampling or artifacts of sample 
preparation.

An apparently normal 46,XY male chromosome complement was 
observed in 20 mitotic cells examined in detail. Chromosome band 
resolution was 400-450. A karyogram was prepared on 5 cells

___ TRANSTHORACIC ECHO
EF 59% Normal left ventricular wall thickness and biventricular 
cavity sizes and regional/global biventricular systolic 
function. Trace-mild aortic regurgitation. No 2D 
echocardiographic evidence for endocarditis.

 
Brief Hospital Course:
================================================
TRANSITIONAL ISSUES 
================================================
- continue Daptomycin (10mg/kg dosing) 750mg IV Q24H 
(___)
- continue Ceftriaxone 2g IV q24h ___ s/p 
cefepime (___)
- continue C.Diff prophylaxis with oral Vancomycin 125mg PO BID 
until completion or antibiotics (___) 
- consider restarting ciprofloxacin prophylaxis following 
antibiotics, to be reassessed in transplant ___ clinic
- CT Chest imaging and ID follow-up scheduled for ___ 
reassess indication for outpatient bronchoscopy
- f/u ___ bone marrow biopsy results
- re-assess indication for CMV prophylaxis 

================================================
BRIEF HOSPITAL COURSE
================================================
___ with relapsed acute myeloid leukemia in remission s/p 
reinduction with MEC/lenalidomide on protocol ___, s/p 
allogeneic MRD stem cell transplant c/b acute GVHD of the gut, 
presenting with BK Cystitis and diarrhea (GVHD) and started on 
___. He was also found to have pulmonary nodules concerning 
for fungal etiology for which he has repeat imaging scheduled 
for ___ prior to ID follow-up with Dr. ___. He was 
found to have asymptomatic Enterococcal (vanc/amp resistant) and 
E. Coli bacteremia, for which he will continue antibiotics via 
___ following hospital discharge.

ACTIVE ISSUES
# Dysuria
# BK Virus cystitis
Dysuria, hematuria with trouble with continuing flow. UA 
consistent with UTI and Urine BK virus PCR with >50 million 
copies (other infectious etiologies negative). No suggestion of 
pyelonephritis. Some initial concern for memory lapses/ 
?confusion which historically was present iso past infection, 
however family denying acute process but rather chronic 
intermittent forgetfulness. Patient provided pain relief with 
phenazopyridine; urology consult not finding indication for 3 
way foley. 

# Diarrhea
# Recurrent C Diff infection
# Acute GVHD
On tacrolimus and steroids (prednisone/budesonide) with ongoing 
diarrhea concerning for GVH (C Diff negative). Started jakafi 
5mg BID while inpatient with subjective improvement. 

#Enterococcus Bacteremia, Vancomycin/Ampicillin Resistant
Patient without clinical stigmata of a bloodstream infection (no 
fevers/chills, vital signs stable, no malaise) but iso severe 
immunosuppression. TTE without vegetations appreciated. 
Enterococcus sensitive to daptomycin (dose-dependent) and 
provided PICC on ___ for outpatient completion of 
antibiotics. 
- continue Daptomycin (10mg/kg dosing) 750mg IV Q24H 
(___)
- continue C.Diff prophylaxis with oral Vancomycin 125mg PO BID 
until completion or antibiotics (___) 
- consider restarting ciprofloxacin prophylaxis following 
antibiotics, to be reassessed in transplant ___ clinic

#E. Coli Bacteremia
Completed ciprofloxacin course on ___ while inpatient for foot 
ecthyma and history of pseudomonal bacteremia, and on ___ with 
blood cultures growing E. Coli bacteremia sensitive to 
ceftriaxone. Likely is gut translocation iso significant 
immunosuppression alongside jakafi initiation this admission. 
Provided PICC on ___ for outpatient completion of 
antibiotics. 
- continue Ceftriaxone 2g IV q24h ___ s/p 
cefepime (___)
- continue C.Diff prophylaxis with oral Vancomycin 125mg PO BID 
until completion or antibiotics (___) 
- consider restarting ciprofloxacin prophylaxis following 
antibiotics, to be reassessed in transplant ___ clinic

# Lower Extremity Edema
Patient reports lower extremity swelling is secondary to 
steroids and relieves (minorly) with elevation; denies history 
of heart disease. Dr. ___ prednisone taper while 
admitted; prednisone was decreased from 30->20->15 by discharge. 
His 15mg dosing was started on ___. 

# Cough
# Pulmonary nodules
Recent sick contact exposure with 1 week of cough and phlegm 
production. CT chest suggesting pulmonary nodules and B-Glucan 
224 / galactomannan negative concerning for fungal etiology. 
Pulmonary consult finding transient nodules in past likely 
related to ongoing marijuana vaping use and without infectious 
symptoms or stigmata and does not favor urgent bronchoscopy this 
admission with repeat imaging in 6 weeks; ID consult 
recommending bronchoscopy or potential repeat imaging in 2 
weeks. Given lack of patient symptoms, plan for discharge with 
ID follow-up evaluation with repeat CT imaging scheduled. Of 
note, patient was rhinovirus positive by nasopharyngeal swab and 
sputum cultures grew stenotrophomonas maltophilia, serratia 
marcescens. 
- CT Chest imaging and ID follow-up scheduled for ___ 
reassess indication for outpatient bronchoscopy

# Acute myeloid leukemia, in remission
___ continues to remain in a complete remission count slow most 
likely due to valganciclovir, slowly thrombocytopenia is 
improving. Bone marrow biopsy ___ without AML recurrence 
(Blast cells 1%, no discrete blast population in blast gate). 
Continued on prophylaxis: atovaquone, high dose PPI.
- f/u ___ bone marrow biopsy results

# CMV Viremia, history of reactivation
History of viremia on maintenance dosing; viral loads checked 
through admission not detected. ID consult appreciated 
significant immunosuppression in this asymptomatic host and 
recommended continuing valganciclovir 900 mg daily through 
admission. Planned ___ weeks of therapy which can be reduced to 
prophylaxis pending outpatient plan.
- re-assess indication for CMV prophylaxis 

CHRONIC/RESOLVED ISSUES: 
# Cellulitis with Pseudomonas bacteremia
Per outpatient ID note on ___, pseudomonal foot ulcer was 
healing well and ciprofloxacin was to be continued for ~2 weeks 
with re-evaluation. Maintained on ciprofloxacin while admitted 
with well-healing tissue by exam. 

# EBV Viremia, history of reactivation
s/p one dose of Rituximab ___.

# Nicotine dependence
# Marijuana use
Provided nicotine patch while admitted.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Ciprofloxacin HCl 500 mg PO BID 
3. Posaconazole Delayed Release Tablet 300 mg PO DAILY 
4. ValGANCIclovir 900 mg PO DAILY 
5. Budesonide 3 mg PO TID 
6. LORazepam 1 mg PO BID:PRN anxiety 
7. Multivitamins 1 TAB PO DAILY 
8. Tacrolimus 0.5 mg PO QAM 
9. Tacrolimus 0.5 mg PO QPM 
10. FoLIC Acid 1 mg PO DAILY 
11. LOPERamide 2 mg PO QID diarrhea 
12. PredniSONE 30 mg PO DAILY 
13. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
14. Nicotine Patch 21 mg/day TD DAILY 
15. Pantoprazole 40 mg PO Q12H 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV once a 
day Disp #*15 Intravenous Bag Refills:*0 
2.  Daptomycin 750 mg IV Q24H  
3.  LOPERamide 2 mg PO QID:PRN Diarrhea  
4.  ruxolitinib 5 mg PO BID  
5.  Vancomycin Oral Liquid ___ mg PO BID  
6.  PredniSONE 15 mg PO DAILY  
7.  Atovaquone Suspension 1500 mg PO DAILY  
8.  Budesonide 3 mg PO TID  
9.  FoLIC Acid 1 mg PO DAILY  
10.  LORazepam 1 mg PO BID:PRN anxiety  
11.  Multivitamins 1 TAB PO DAILY  
12.  Nicotine Patch 21 mg/day TD DAILY  
13.  Pantoprazole 40 mg PO Q12H  
14.  Posaconazole Delayed Release Tablet 300 mg PO DAILY  
15.  Tacrolimus 0.5 mg PO QPM  
16.  Tacrolimus 0.5 mg PO QAM  
17.  ValGANCIclovir 900 mg PO DAILY  
18.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===============================
# BK Virus Cystitis
# Graft vs Host Disease
# Enterococcus Bacteremia, Vancomycin/Ampicillin Resistant
# E. Coli Bacteremia
# Diarrhea
# Pulmonary Nodules
# Lower Extremity Edema

SECONDARY DIAGNOSES
===============================
# Recurrent C Diff infection
# Acute myeloid leukemia, in remission
# Cellulitis with Pseudomonas bacteremia
# CMV Viremia, history of reactivation
# EBV Viremia, history of reactivation
# Nicotine dependence
# Marijuana use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
PATIENT DISCHARGE INSTRUCTIONS
================================================  
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
- You were admitted because you had pain with urination, had a 
recent cold and cough, and also had ongoing diarrhea.

WHAT HAPPENED IN THE HOSPITAL?  
- You were started on a medication (jakafi) to help suppress the 
inflammation in your bowels and treat your diarrhea.
- Lab tests showed that your bladder was infected with BK Virus, 
a virus that can cause common bladder infections and pain in 
immunosuppressed hosts.
- You were found to have pulmonary nodules that could be 
infection, and it was decided these would be monitored when you 
leave.
- You were found to have bloodstream infections and you were 
started on antibiotics. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?  
- You should follow-up with your Oncologist, Dr. ___ on 
___. 
- You should follow-up with your Infectious Disease physician, 
___, on ___ for outpatient evaluation of your 
pulmonary nodules/infection. The morning before you see Dr. 
___ will have CT imaging of your chest. 
- Continue your antibiotic infusions as instructed, with an end 
date of ___. 
- Be sure to take your medications as prescribed and attend the 
appointments listed below. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

 
Followup Instructions:
___